US05637750
Into a dry 250 ml multi-necked flask equipped with gas tight stirrer, thermometer, pressure equalising dropping funnel and a dichloromethane/Drikold cooled reflux condenser (connected to an aqueous caustic scrubber) were charged salicylaldoxime prepared as described in Example 4 (15.82 g) and toluene (100 ml) to afford a solution which was heated to 93°-95° C. and stirred at this temperature for 0.5 hour. A solution of phosgene in toluene (89.1 g of 20% ww soln.) was then added dropwise, via a dropping funnel, over 0.75 hour whilst maintaining the temperature at 93°-95° C. to afford a pale yellow suspension. The temperature was maintained for 2 hours, after which G.C. analysis indicated reaction was complete. The apparatus was carefully set for atmospheric distillation (ensuring that the equipment was still connected to the caustic scrubber) and the toluene was distilled off up to an internal temperature of 120° C. to give 2-cyanophenol in 92.5% yield based on the phenol used in Example 4.

reactant | dichloromethane Drikold | ClCCl.C(=O)=O
reactant | salicylaldoxime | C(C=1C(O)=CC=CC1)=NO | C7H7NO2
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 2-cyanophenol | 92.5% yield | C(#N)C1=C(C=CC=C1)O | C7H5NO
